US03932429
A mixture of 0.25 g of 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide, 5 ml of propionic acid anhydride and 0.3 ml of pyridine is heated at 80° to 90°C for 2 hours. After cooling, the crystalline precipitate is collected by filtration, washed with acetone, and then recrystallized from a mixture of chloroform and ether. 0.25 g of 1-(3-propionyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide is obtained. M.p. 226° - 228°C.

reactant | 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide | 0.25 g | Br.OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2
reactant | propionic acid anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-propionyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide | 0.25 g | Br.C(CC)(=O)OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2 | InChI=1S/C18H25NO2.BrH/c1-4-17(20)21-16-9-5-7-14(11-16)18-10-6-8-15(12-18)19(3)13(18)2;/h5,7,9,11,13,15H,4,6,8,10,12H2,1-3H3;1H
